US08304556B2
B-02a) 4-Nitro-N,N-dimethyl-benzamide
To a mixture of 4-nitrobenzoyl chloride (7.20 g, 38.8 mmol) and dimethylamine hydrochloride (3.20 g, 39.2 mmol) in 100 mL DCM is added triethyl amine (14.0 mL, 99.6 mmol) at 0° C. The cooling bath is removed and the reaction mixture is stirred overnight at RT. Then 300 mL DCM is added and the reaction mixture is washed with 50% saturated aqueous ammonium chloride, water, 50% saturated aqueous sodium hydrogen carbonate and 0.1 M aqueous NaOH. The organic phase is dried over MgSO4 and concentrated in vacuo. Yield: 5.37 g.

reactant | 4-nitrobenzoyl chloride | 38.8 mmol, 7.20 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | dimethylamine hydrochloride | 39.2 mmol, 3.20 g | Cl.CNC
reactant | triethyl amine | 99.6 mmol, 14.0 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitro-N,N-dimethyl-benzamide | [N+](=O)([O-])C1=CC=C(C(=O)N(C)C)C=C1 | C9H10N2O3
